US04288437
(E)-2-{[[3-(Dimethylamino)propyl]amino]phenylmethylene}benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-benzoyl-benzo[b]-thiophen-3-ol, phosphorus(V) chloride and an aqueous solution of 3-(dimethylamino)-propylamine (prepared from 51 gm of diamine and 70 cc of water) with a yield of 26% of theory.

reactant | 2-benzoyl-benzo[b]-thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-(dimethylamino)-propylamine | 70 cc, 51 gm | CN(CCCN)C | C5H14N2
product | (E)-2-{[[3-(Dimethylamino)propyl]amino]phenylmethylene}benzo[b]thiophen-3(2H)-one | yield of 26% | CN(CCCN\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2)C | C20H22N2OS
